US07648983B2
(S)-tert-butyl 4-(5-bromo-2,4-difluorophenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-ylcarbamate
To a solution of (S)-4-(5-bromo-2,4-difluorophenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-amine (14.3 g, 39 mmoles 1 equiv) in 1,4-dioxane (190 mL) is added a saturated aqueous solution of sodium bicarbonate (190 mL) and water (30 mL) at ambient temperature. The suspension is stirred for 5 minutes followed by the addition of di-tert-butyldicarbonate (17 g, 78 mmoles, 2 equiv). After 1 h, the reaction is diluted with water, extracted with ethyl acetate, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue is purified by silica gel chromatography eluting with hexane:ethyl acetate (4:1) to give the title compound (78% yield): MS (m/z): 421, 423 (M+1).

reactant | (S)-4-(5-bromo-2,4-difluorophenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-amine | 39 mmoles, 14.3 g, 1 equiv | BrC=1C(=CC(=C(C1)[C@]1(N=C(SCC1)N)C)F)F | C11H11BrF2N2S
reactant | sodium bicarbonate | 190 mL | C([O-])(O)=O.[Na+]
reactant | di-tert-butyldicarbonate | 78 mmoles, 17 g, 2 equiv | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 190 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | water | 30 mL | O | H2O
product | (S)-tert-butyl 4-(5-bromo-2,4-difluorophenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-ylcarbamate | 78% yield | BrC=1C(=CC(=C(C1)[C@]1(N=C(SCC1)NC(OC(C)(C)C)=O)C)F)F | C16H19BrF2N2O2S
